US04043994
Nα -Benzyloxycarbonyl-D-alanyl-L-leucine methyl ester is prepared from 8.92 g. (40 mmol) of Nα -benzyloxycarbonyl-D-alanine, 7.28 g. (40 mmol) of L-leucine methyl ester hydrochloride and 5.4 g. (40 mmol) of 1-hydroxybenztriazole dissolved in 120 ml. of dimethylformamide. The solution is cooled and treated with 5.6 ml. (40 mmol) of triethylamine and then with 8.64 g. of dicyclohexylcarbodiimide. The reaction is stirred with cooling for several hours and then allowed to come to room temperature in the ice bath. It is stirred overnight at room temperature and filtered. The filtrate is evaporated at reduced pressure and the residue dissolved in 400 ml. of ethyl acetate and washed three times with 5 percent sodium bicarbonate solution, dilute hydrochloric acid, saturated salt solution, dried over magnesium sulfate and evaporated. The residue is crystallized from ether-petroleum ether, re-dissolved in ether, filtered and crystallized by addition of petroleum ether; 12.88 g.; m.p. 65°-68° C.

reactant | Nα -benzyloxycarbonyl-D-alanine | 40 mmol | C(C1=CC=CC=C1)OC(=O)N[C@H](C)C(=O)O | C11H13NO4
reactant | L-leucine methyl ester hydrochloride | 40 mmol | Cl.COC([C@@H](N)CC(C)C)=O
reactant | 1-hydroxybenztriazole | 40 mmol | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 40 mmol | C(C)N(CC)CC | C6H15N
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Nα -Benzyloxycarbonyl-D-alanyl-L-leucine methyl ester | COC([C@@H](NC([C@H](NC(=O)OCC1=CC=CC=C1)C)=O)CC(C)C)=O | C18H26N2O5
